US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and 2-phenylethanol, there is obtained 2-phenylethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 342 (18), 237 (71), 194 (100), 105 (18);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | 2-phenylethanol | C1(=CC=CC=C1)CCO | C8H10O
product | 2-phenylethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCC3=CC=CC=C3)=N | C23H22N2O
